US06407130B1
d) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-trifluoroacetamide
2.2 mL of trifluoroacetic acid anhydride are added dropwise to 4.1 g (15 mmol) of 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole in 40 mL of pyridine at 5-20° C. The mixture is stirred for 15 min. at ambient temperature and diluted with water. The solid is filtered off and washed with water. The crystals are dissolved in 300 mL ethyl acetate with heating, dried and evaporated down until not quite dry. The residue is cooled, the solid precipitated is filtered off and washed with diethylether.

reactant | trifluoroacetic acid anhydride | 2.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole | 15 mmol, 4.1 g | NC1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1 | C17H16N4
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-trifluoroacetamide | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NC(C(F)(F)F)=O | C19H15F3N4O
